US04634713
A solution of 1-(p-nitrophenyl)-3-methyl-2-imidazolidinone (12.45 g) in 150 ml glacial acetic acid, to which is added 6 g of 5% rhodium on alumina, is hydrogenated at 50° and 45 lbs. pressure. The catalyst is filtered off and the filtrate concentrated under reduced pressure. Water (25 ml) is added to the residue which is basified by addition of 50% aqueous sodium hydroxide while the mixture is cooled in an ice bath. Extraction with methylene chloride (5×70 ml), drying over anhydrous sodium sulfate, filtering and concentrating under reduced pressure gives crude 1-(4-aminocyclohexyl)-3-methyl-2-imidazolidinone. The oil is converted to the hydrochloride salt by dissolving in 100 ml isopropanol and adding a saturated solution of hydrogen chloride gas in ethyl acetate. Ether (50 ml) is added and the salt crystallizes on cooling to room temperature. Mixture is cooled further in the refrigerator. The solid is filtered off and dried to give cis 1-(4-aminocyclohexyl)-3-methyl-2-imidazolidinone hydrochloride, m.p. 287°-298°.

reactant | 1-(p-nitrophenyl)-3-methyl-2-imidazolidinone | 12.45 g | [N+](=O)([O-])C1=CC=C(C=C1)N1C(N(CC1)C)=O | C10H11N3O3
reactant | hydrogen chloride | Cl | ClH
reactant | Ether | 50 ml | CCOCC | C4H10O
solvent | acetic acid | 150 ml | C(C)(=O)O | C2H4O2
solvent | isopropanol | 100 ml | C(C)(C)O | C3H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | rhodium on alumina | 6 g | [Rh] | Rh
product | cis 1-(4-aminocyclohexyl)-3-methyl-2-imidazolidinone hydrochloride | Cl.N[C@H]1CC[C@H](CC1)N1C(N(CC1)C)=O | InChI=1S/C10H19N3O.ClH/c1-12-6-7-13(10(12)14)9-4-2-8(11)3-5-9;/h8-9H,2-7,11H2,1H3;1H/t8-,9+;
